US08283353B2
ethyl 3-[(5-methyl-4H-1,2,4-triazol-3-yl)amino]cyclobutanecarboxylate
To a solution of 5-methyl-4H-1,2,4-triazol-3-amine (16.35 g) and ethyl 3-oxocyclobutanecarboxylate (12.41 g) in acetic acid (150 mL) was added sodium triacetoxyborohydride (36.56 g), and the mixture was stirred at room temperature for 5 days. The solvent was evaporated under reduced pressure, the residue was diluted with saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate-isopropyl alcohol (3:1). The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: methanol/ethyl acetate=0/100-÷10/90 (volume ratio)], and crystallized from diethyl ether to give the title compound as a colorless solid (15.93 g, 62%).

reactant | 5-methyl-4H-1,2,4-triazol-3-amine | 16.35 g | CC=1NC(=NN1)N | C3H6N4
reactant | ethyl 3-oxocyclobutanecarboxylate | 12.41 g | O=C1CC(C1)C(=O)OCC | C7H10O3
reactant | sodium triacetoxyborohydride | 36.56 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | ethyl 3-[(5-methyl-4H-1,2,4-triazol-3-yl)amino]cyclobutanecarboxylate | 15.93 g, 62% | CC=1NC(=NN1)NC1CC(C1)C(=O)OCC | C10H16N4O2
